US05665718
1.5 g (4.4 mmol) of 3-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 20 ml of N,N-dimethylformamide, 210 ml (12 mmol) of N-ethyldiisopropylamine and 1.16 g (9.6 mmol) of allyl bromide were stirred at room temperature for 4 hours. The reaction solution was evaporated and the residue was chromatographed on 250 g of silica gel while eluting with ethyl acetate. The uniform fractions were evaporated. There were obtained 1.54 g (82%) of 3-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 126°-130°.

reactant | 3-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 4.4 mmol, 1.5 g | NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C15H13ClN6O2
reactant | N-ethyldiisopropylamine | 12 mmol, 210 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 9.6 mmol, 1.16 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.54 g, 82% | C(C=C)N(CC=C)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C21H21ClN6O2
